US09260425B2
To a solution of 6-bromo-4-methylpyridin-3-amine (7.76 g, 0.0415 mol) in acetic acid (412.8 mL, 7.260 mol) was added Sodium nitrite (2.87 g, 0.0416 mol) in 4.0 ml water (Bioorg. Med. Chem. 15 (2007) 2441-2452). The reaction was stirred for 15 min and allowed to stand at room temperature (rt) for 2 days (d). The reaction was concentrated and diluted EtOAc then washed with NaHCO3 and brine. The organic layer was dried Na2SO4, filtered and concentrated. The crude was purified by chromatography (DCM/MeOH) eluted at 5% MeOH) to give 5-bromo-1H-pyrazolo[3,4-c]pyridine (79.1% yield)

reactant | 6-bromo-4-methylpyridin-3-amine | 0.0415 mol, 7.76 g | BrC1=CC(=C(C=N1)N)C | C6H7BrN2
reactant | acetic acid | 7.260 mol, 412.8 mL | C(C)(=O)O | C2H4O2
reactant | Sodium nitrite | 0.0416 mol, 2.87 g | N(=O)[O-].[Na+]
solvent | water | 4.0 ml | O | H2O
product | 5-bromo-1H-pyrazolo[3,4-c]pyridine | 79.1% yield | BrC=1C=C2C(=CN1)NN=C2 | C6H4BrN3
